US05312823
b) Ethyl 5-methyl-2,3,4,5,6,7-hexahydro-1H-pyrrolo-[3,4-c]pyridine-2-carboxylate
15.3 g (45.8 mmol) of 2-ethoxycarbonyl-5-methyl-2,3-dihydro-1H-pyrrolo[3,4-c]pyridinium iodide are dissolved in 100 ml of absolute methanol, the solution is cooled to 0° C., and 7 g (0.1 mol) of sodium borohydride are added in 0.5 g portions. The mixture is subsequently stirred for 2 hours at room temperature, 100 ml of water are added, and the mixture is treated with K2CO3 and extracted with CHCl3. The organic solutions are dried over K2CO3 and concentrated, and the residue is distilled.

reactant | 2-ethoxycarbonyl-5-methyl-2,3-dihydro-1H-pyrrolo[3,4-c]pyridinium iodide | 45.8 mmol, 15.3 g | [I-].C(C)OC(=O)[NH+]1CC=2CN(C=CC2C1)C
reactant | sodium borohydride | 0.1 mol, 7 g | [BH4-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | Ethyl 5-methyl-2,3,4,5,6,7-hexahydro-1H-pyrrolo-[3,4-c]pyridine-2-carboxylate | CN1CC2=C(CC1)CN(C2)C(=O)OCC | C11H18N2O2
